Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.76631811398
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7].[H:8],5.121211851580001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:6],1.54667669759
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.90091617069
[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-3.5919131342800004
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9],0.635862238271
[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2],1.40870094221
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7],3.91595465298
[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])[H:10].[H:7],4.93044240192
[H:1][C:2]#[C:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.58343953629
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-6.07143583326
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:15])[H:16].[H:1][C:2]([C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])=[C:13][H:14],4.29000205436
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15].[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.239816974119999
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],1.39202923976
[C:1][C:2]1([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.1606107833599999
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:3][C:5](=[C:4])[H:6],7.052651409580001
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1]1[C:2][C:3]1[H:4],0.6217364983899999
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12],0.72777186537
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:6],1.58103976037
[O:1]=[C:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11],0.712343553019
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4],1.94815853581
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.84913269801
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.867254727930001
[H:9].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.88136923769
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13],-3.80908843307
[C:3]([O:4][H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.81665615167
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],4.63060676876
[C:1]#[C:2].[C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9],-6.883950669239999
